US07863271B2
(3S,5S)-tert-Butyl 3-ethyl-5-methylmorpholine-4-carboxylate (1.8 g, 7.8 mmol) was dissolved in ca. 10 M HCl in CH3OH and allowed to stir at ambient temperature. After 2.5 h, the solution was concentrated under reduced pressure. To the residue was added 1 N NaOH (20 mL) and this was extracted with CH2Cl2 (2×20 mL). The combined organics were dried (Na2SO4) and carefully concentrated under reduced pressure to give (3S,5S)-3-ethyl-5-methylmorpholine (1.0 g, quantitative). 1H NMR consistent.

reactant | (3S,5S)-tert-Butyl 3-ethyl-5-methylmorpholine-4-carboxylate | 7.8 mmol, 1.8 g | C(C)[C@@H]1N([C@H](COC1)C)C(=O)OC(C)(C)C | C12H23NO3
solvent | HCl | ca. 10 M | Cl | ClH
solvent | CH3OH | CO | CH4O
product | (3S,5S)-3-ethyl-5-methylmorpholine | 1.0 g | C(C)[C@@H]1N[C@H](COC1)C | C7H15NO
